US07034039B2
A mixture of 2-benzoyl-4-bromobenzoic acid (25 g, 82 mmol), potassium carbonate (12 g, 87 mmol), diethyl bromomalonate (22 g, 92 mmol), acetone (450 mL) and N,N-dimethylformamide (8 mL) was stirred at room temperature for 15 h. The solvent was evaporated under reduced pressure. The residue was poured into water and extracted with ethyl acetate. The residue was crystallized from hexane and the crystals were collected by filtration. The obtained crystals were added to a mixture of acetic acid (235 mL) and concentrated hydrochloric acid (360 mL) and the mixture was stirred at 120° C. for 8 h. The reaction mixture was cooled and concentrated. The residue was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried with anhydrous sodium sulfate and concentrated under reduced pressure. The precipitated crystals were collected by filtration, washed with diisopropyl ether and dried to give 6-bromo-4-phenyl-1H-isochromene-3-carboxylic acid (17 g, 60%) as crystals.

reactant | 2-benzoyl-4-bromobenzoic acid | 82 mmol, 25 g | C(C1=CC=CC=C1)(=O)C1=C(C(=O)O)C=CC(=C1)Br | C14H9BrO3
reactant | potassium carbonate | 87 mmol, 12 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl bromomalonate | 92 mmol, 22 g | BrC(C(=O)OCC)C(=O)OCC | C7H11BrO4
reactant | acetone | 450 mL | CC(=O)C | C3H6O
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | 6-bromo-4-phenyl-1H-isochromene-3-carboxylic acid | 17 g, 60% | BrC=1C=C2C(=C(OCC2=CC1)C(=O)O)C1=CC=CC=C1 | C16H11BrO3
